US09024027B2
Step 5: Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-methoxy-2-oxoindolin-1-yl)acetoxy)-ethyl)pyridine 1-oxide (117)
To a solution of 2-(5-methoxy-2-oxoindolin-1-yl)acetic acid (200 mg, 0.904 mmol) in DCM (30 ml), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (380 mg, 0.904 mmol), EDC (520 mg, 2.71 mmol) and DMAP (55.2 mg, 0.452 mmol) were added, and the mixture was reacted at room temperature overnight. The solvent was evaporated, and the resulting crude was partitioned between DCM (20 ml) and a 1N HCl (20 ml), and the desired compound was extracted with ethyl acetate (3×20 ml). The combined organic layers were dried over sodium sulfate and the solvent was removed. The crude was purified by flash chromatography on silica gel (DCM:MeOH 98:2) recovering the title compound (149.2 mg, 0.239 mmol, 27% yield). MS/ESI+ 623.12 [MH]+; [αD]=+19.12 c=0.5 in DCM; 1H NMR (300 MHz, DMSO-d6) δ ppm 8.45 (s, 2H), 7.18 (d, 1H), 7.06 (d, 1H), 6.92-6.98 (m, 2H), 7.07 (t, 1H), 6.76 (dd, 1H), 6.64 (d, 1H), 6.02 (dd, 1H), 4.54 (d, 1H), 4.46 (d, 1H), 3.91 (d, 2H), 3.74 (s, 3H), 3.59 (s, 2H), 3.40 (dd, 1H), 3.21 (dd, 1H), 1.03-1.41 (m, 1H), 0.50-0.70 (m, 2H), 0.21-0.50 (m, 2H).

reactant | 2-(5-methoxy-2-oxoindolin-1-yl)acetic acid | 0.904 mmol, 200 mg | COC=1C=C2CC(N(C2=CC1)CC(=O)O)=O | C11H11NO4
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.904 mmol, 380 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 2.71 mmol, 520 mg
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.452 mmol, 55.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-methoxy-2-oxoindolin-1-yl)acetoxy)-ethyl)pyridine 1-oxide | 0.239 mmol, 149.2 mg, 27% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(CC2=CC(=CC=C12)OC)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H26Cl2F2N2O7
